2118-10-07 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -          Diuresed 10 lasix x 2
   -          Occasional runs of NSVT (longest = 15 beats), pt
   asymptomatic during, Mag 1.7 so repleted
   -          When sleeping RR 18-20, when awake more tachypneic but
   maintaining sats, refusing BiPAP
   -          Tried Combivent neb
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2118-10-7**] 01:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-7**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 97 (97 - 120) bpm
   BP: 116/65(78) {97/51(62) - 117/74(84)} mmHg
   RR: 27 (22 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    235 mL
                                                                    119 mL
   PO:
             TF:
   IVF:
                                                                     35 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    570 mL
                                                                    990 mL
   Urine:
                                                                    570 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -335 mL
                                                                   -871 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: 7.39/39/261/26/0
   PaO2 / FiO2: 522
   Physical Examination
   Gen: Tachypneic
   HEENT: PERRL
   Lungs: Diffuse crackles, rhonchi, R>L
   Heart: s1s2 tachy
   Abd: soft, NT/ND
   Ext: no edema
   Labs / Radiology
   245 K/uL
   6.9 g/dL
   99 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   17 mg/dL
   101 mEq/L
   138 mEq/L
   23.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2118-10-6**]  06:06 PM
                             [**2118-10-6**]  11:25 PM
                            [**2118-10-7**]  04:15 AM
   WBC
   7.9
   Hct
   23.9
   Plt
   245
   Cr
   0.9
   1.0
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   98
   99
   Other labs: CK / CKMB / Troponin-T:24//0.02, Differential-Neuts:86.8 %,
   Lymph:8.0 %, Mono:4.7 %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Ca++:8.6
   mg/dL, Mg++:2.7 mg/dL, PO4:3.6 mg/dL
   MICRO:
   -          Blood cx [**10-6**]: pending
   -
   IMAGING:
   -          CXR [**10-7**]: Improved CHF, persistent pleural effusion R
   -
   Assessment and Plan
   A/P: 87F with hx of CAD and poor baseline EF admitted to MICU with SOB
   with chest xray c/w volume overload and elevated BNP.
   .
   # Resp Distress: Entire clinical picture appears most consistent with
   CHF.  Pt has had a progressive worsening of her breathing over 2 weeks.
   Cough with white sputum could indicate PNA but no clear infiltrate on
   CXR and normal WBC. Initial lactate 3.0 but now down to 1.8, may be
   related to work of breathing rather than sepsis/ infection.
   - Diuresed with total 20mg Lasix
   - Weaning O2 as tolerated
   - Consider trial of BiPAP if needed but pt refusing
   - Will continue abx for now until clearly no infectious process
   identified (CTX + Levaquin for CAP)
   .
   # EKG changes: Pt with pseudonormalization of T waves on today's EKG,
   concerning for possible ischemia. No pain. CK flat, trop mildy elevated
   at 0.02 which may be related to volume overload.  Pt with significant
   cardiac hx although not on any meds (conflict between pt and PMD per
   pt's report)
   - ASA 325
   - Cycle cardiac enzymes, serial EKGs
   - [**Month (only) 51**] benefit from ACE-I later
   - D/W PMD coverage (cardiologist) who will see in AM
   .
   # Anemia: Last H&H from [**2114**] was 35.
   - Send off iron studies
   - Transfuse for Hct < 25
   - Guaiac all stools
   .
   # FEN: NPO for now pending improvement in resp status.
   .
   # PPx: heparin sq, boots
   .
   # Access: PIVs
   .
   # Code status: Full, confirmed with pt and son
   .
   # Communication: With pt, son
   ICU [**Name (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2118-10-6**] 05:45 PM
   18 Gauge - [**2118-10-6**] 05:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2118-10-08 10:39:00 Physician Attending Progress Note
Chief Complaint: 87 yr woman with CAD, CHF, non-compliant with meds.
   Admitted 48 hrs ago with SOB related to CHF
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Diuresed, transfused and r/o'd for MI
   [**33**] Hour Events:
 TRANSTHORACIC ECHO - At [**2118-10-7**] 10:40 AM
        severe global hypokineses, EF of 30%, inferior akinesis
 ULTRASOUND - At [**2118-10-7**] 02:40 PM
   bilat lower ext's
        No evidence of DVT
   CTA also negative for PE
   No CP, leg pain, abdominal pain
   History obtained from Medical records
   Allergies:
   Morphine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2118-10-7**] 11:06 AM
   Heparin Sodium (Prophylaxis) - [**2118-10-8**] 09:04 AM
   Other medications:
   asa, ceftriaxone, hep sub q, levofloxacin, mucormyst
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2118-10-8**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96
   HR: 99 (85 - 105) bpm
   BP: 125/68(81) {100/58(68) - 141/85(95)} mmHg
   RR: 19 (17 - 35) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    528 mL
                                                                    760 mL
   PO:
                  760 mL
   TF:
   IVF:
                                                                    250 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  2,625 mL
                                                                    270 mL
   Urine:
                                                                  2,625 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,097 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Wheezes : occasional)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   239 K/uL
   105 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   17 mg/dL
   98 mEq/L
   140 mEq/L
   29.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2118-10-6**]  06:06 PM
                             [**2118-10-6**]  11:25 PM
                            [**2118-10-7**]  04:15 AM
                            [**2118-10-7**]  03:37 PM
                            [**2118-10-8**]  04:56 AM
   WBC
   7.9
   8.7
   Hct
   23.9
   30.4
   29.6
   Plt
   245
   239
   Cr
   0.9
   1.0
   1.0
   1.0
   TropT
   0.02
   0.02
   TCO2
   24
   Glucose
   98
   99
   105
   Other labs: PT / PTT / INR:14.0/44.5/1.2, CK / CKMB /
   Troponin-T:24//0.02, Differential-Neuts:86.8 %, Lymph:8.0 %, Mono:4.7
   %, Eos:0.1 %, Lactic Acid:1.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.4 mg/dL
   Microbiology: NGTD
   Assessment and Plan
   Assessment and Plan
   Patient is an 87 year old female with history of coronary artery
   disease and poor baseline EF who presented with dyspnea, with work-up
   notable for evidence of volume overload by imaging, elevated BNP, and
   echocardiogram revealing worsening MR.
   .
   # Respiratory distress: Entire clinical picture appears most consistent
   with CHF.  Pt has had a progressive worsening of her breathing over 2
   weeks. Cough with white sputum could indicate PNA but no clear
   infiltrate on CXR and normal WBC. Initial lactate 3.0 but now down to
   1.8, may be related to work of breathing rather than sepsis/
   infection.
   - Diuresed with total 20mg Lasix
   - Weaning O2 as tolerated
   -  Stop abx
   - CTA/LENIs negative
   - Needs afterload reduction for MR
   .
   # EKG changes: Ruled out for MIPt with pseudonormalization of T waves
   on today's EKG, concerning for possible ischemia. No pain. CK flat,
   trop mildy elevated at 0.02 which may be related to volume overload.
   Pt with significant cardiac hx although not on any meds (conflict
   between pt and PMD per pt's report)
   - ASA 325
   - Cycle cardiac enzymes, serial EKGs
   - [**Month (only) 51**] benefit from ACE-consider low dose captopril today as a trial
   - D/W PMD coverage (cardiologist) who will see in AM
   .
   # Anemia: Last H&H from [**2114**] was 35. Appropriate bump after
   transfusion. Will need further outpt workup
   - Send off iron studies
   - Transfuse for Hct < 25
   - Guaiac all stools
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2118-10-6**] 05:45 PM
   18 Gauge - [**2118-10-6**] 05:46 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes